* C:\Users\Lib\power-electronics-study-v2\02-solar-pv\ltspice-sims\pv_boost_mppt_attempt.asc
* Generated by LTspice 26.0.2 for Windows.
C1 N003 0 100µ
L1 N001 N002 100µ Rser=1m
D1 N002 N003 1N4148
R1 N003 0 10
M1 N002 gate_signal 0 0 IRFH3707
I1 N001 0 3
D2 N001 0 1N4148
B1 pwr 0 V=V(n001)*I(L1)
B2 pwr_prev 0 V=delay(V(pwr),200u)
B3 pwr_direction 0 V=if(V(pwr)>V(pwr_prev),1,-1)
B4 duty_direction 0 V=delay(V(duty_direction),200u)
B5 N004 0 V=if(time<200u, 1, if(V(pwr_direction)>0, V(prev_direction), -V(prev_direction)))
B6 duty_cmd 0 I=V(duty_direction)*100u
C2 duty_cmd 0 1µ ic=0.5
V1 triangle 0 PULSE(0 1 0 5u 5u 0 10u)
B7 gate_signal 0 V=if(V(triangle)<V(duty_cmd), 5, 0)
C3 prev_direction 0 1n
R2 prev_direction N004 1k
.model D D
.lib C:\Users\Lib\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Lib\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m
.backanno
.end
